US07279478B2
Synthesis of 3-{4-[(R)-[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)oxy](phenyl)methyl]phenyl}-1-methylpyridinium iodide
Using the same procedure as described for example 36 step 3 (2S)-N-(cyanomethyl)-4-methyl-2-{[(R)-phenyl(4-pyridin-3-ylphenyl)methyl]oxy}pentanamide (150 mg, 0.36 mmol) was converted to its pyridinium iodide salt. The salt was swished with diethyl ether (20 mL) for 18 h and the title compound was filtered off as an amorphous solid.

reactant | (2S)-N-(cyanomethyl)-4-methyl-2-{[(R)-phenyl(4-pyridin-3-ylphenyl)methyl]oxy}pentanamide | 0.36 mmol, 150 mg | C(#N)CNC([C@H](CC(C)C)O[C@@H](C1=CC=C(C=C1)C=1C=NC=CC1)C1=CC=CC=C1)=O | C26H27N3O2
reactant | pyridinium iodide salt | [I-].[NH+]1=CC=CC=C1
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 3-{4-[(R)-[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)oxy](phenyl)methyl]phenyl}-1-methylpyridinium iodide | [I-].C(#N)CNC(=O)[C@H](CC(C)C)O[C@@H](C1=CC=C(C=C1)C=1C=[N+](C=CC1)C)C1=CC=CC=C1 | InChI=1S/C27H29N3O2.HI/c1-20(2)18-25(27(31)29-16-15-28)32-26(22-8-5-4-6-9-22)23-13-11-21(12-14-23)24-10-7-17-30(3)19-24;/h4-14,17,19-20,25-26H,16,18H2,1-3H3;1H/t25-,26+;/m0./s1
